US05026856
7-(5-methoxycarbonyl-2-isoindolinyl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
271 mg of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4- oxoquinoline-3-carboxylic acid, 217 mg of 5-methoxycarbonylisoindoline hydrochloride, 457 mg of DBU, and 3ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 122 mg of the target compound.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4- oxoquinoline-3-carboxylic acid | 271 mg | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 5-methoxycarbonylisoindoline hydrochloride | 217 mg | Cl.COC(=O)C=1C=C2CNCC2=CC1
reactant | DBU | 457 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 3ml | CN(C)C=O | C3H7NO
product | 7-(5-methoxycarbonyl-2-isoindolinyl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 122 mg | COC(=O)C=1C=C2CN(CC2=CC1)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | C22H18F2N2O5
